US07618990B2
A mixture of 2,4′-dibromopropiophenone (3.940 g, 13.5 mmol) and N-(2-hydroxy-1,1-dimethylethyl)thiourea (2.000 g, 13.5 mmol), prepared in step 2 of Example 52, in 80 mL of absolute ethanol was refluxed under nitrogen for 3 h. The solvent was removed under reduced pressure to give 2-{[4-(4-bromophenyl)-5-methyl-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol hydrobromide (5.717 g, 100%) as a tan oil, MS (ESI) m/z 341.

reactant | 2,4′-dibromopropiophenone | 13.5 mmol, 3.940 g | BrC(C(=O)C1=CC=C(C=C1)Br)C | C9H8Br2O
reactant | N-(2-hydroxy-1,1-dimethylethyl)thiourea | 13.5 mmol, 2.000 g | OCC(C)(C)NC(=S)N | C5H12N2OS
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-{[4-(4-bromophenyl)-5-methyl-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol hydrobromide | 5.717 g, 100% | Br.BrC1=CC=C(C=C1)C=1N=C(SC1C)NC(CO)(C)C | InChI=1S/C14H17BrN2OS.BrH/c1-9-12(10-4-6-11(15)7-5-10)16-13(19-9)17-14(2,3)8-18;/h4-7,18H,8H2,1-3H3,(H,16,17);1H
